US06706709B2
To a solution of 5-(2-carboxy-ethyl)-1H-indole-2-carboxylic acid ethyl ester (1.3 g, 5 mmol) in 10 mL of dimethylformamide, was added 1,1′-carbonyldiimidazole (973 mg, 6 mmol). The mixture was stirred under nitrogen at room temperature for 30 mins. To the reaction mixture was added pyrrolidine (1.3 mL, 15 mmol) dropwise. After stirring at room temperature for overnight, the reaction was diluted with dichloromethane (300 mL), washed with 1N hydrochloric acid, saturated sodium bicarbonate solution, brine, dried and concentrated to give 1.5 g (95%) of 5-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-indole-2-carboxylic acid ethyl ester.

reactant | 5-(2-carboxy-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 5 mmol, 1.3 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(=O)O | C14H15NO4
reactant | 1,1′-carbonyldiimidazole | 6 mmol, 973 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyrrolidine | 15 mmol, 1.3 mL | N1CCCC1 | C4H9N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 5-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-indole-2-carboxylic acid ethyl ester | 1.5 g, 95% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(N1CCCC1)=O | C18H22N2O3
